US08614328B2
A solution of 3-(4-fluoro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid dimethyl ester (1.5 g, 4.0 mmol) in reagent alcohol (120 mL) and 3 N sodium hydroxide (60 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (100 mL) and washed with methylene chloride (3×100 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers was washed with water (2×100 mL), dried and concentrated to give 3-(4-fluoro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid as an off-white solid (1.2 g, 84% yield). The product was used in the next step without further purification.

reactant | 3-(4-fluoro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid dimethyl ester | 4.0 mmol, 1.5 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC2=C(S1)C=CC=C2F)=O | C19H15FO5S
solvent | sodium hydroxide | 3 N, 60 mL | [OH-].[Na+]
product | 3-(4-fluoro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid | 1.2 g, 84% yield | FC1=CC=CC=2SC(=CC21)COC2=C(C(C(=O)O)=CC=C2)C(=O)O | C17H11FO5S
